US06589970B2
Methylamine (2.35 mL of an 8.03 M solution in ethanol, 18.8 mmol) in 5 mL of methylene chloride was added under nitrogen dropwise over 5 minutes to a mixture of 5-bromo-6-methoxy-naphthalene-2-carbaldehyde (1.00 g, 3.77 mmol), prepared in the previous step, and 3 g of anhydrous MgSO4 in 20 mL of methylene chloride at room temperature. After the addition the reaction was stirred at room temperature for 21 h (overnight). The reaction was filtered and the filtrate concentrated under reduced pressure to give (5-bromo-6-methoxy-naphthalen-2-ylmethylene)-methyl-amine (1.05 g, 100%) as a light tan solid, mp 105-107° C.

reactant | Methylamine | CN | CH5N
reactant | 5-bromo-6-methoxy-naphthalene-2-carbaldehyde | 3.77 mmol, 1.00 g | BrC1=C2C=CC(=CC2=CC=C1OC)C=O | C12H9BrO2
reactant | MgSO4 | 3 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (5-bromo-6-methoxy-naphthalen-2-ylmethylene)-methyl-amine | 1.05 g, 100% | BrC1=C2C=CC(=CC2=CC=C1OC)C=NC | C13H12BrNO
